US07381719B2
Combine 5-hydroxy, 3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (2.0 g, 8 mmol), cesium carbonate (5.2 g, 16 mmol) and N,N-dimethylformamide (60 mL), stir at room temperature for 30 minutes. Add 6-chloronicotinamide (1.2 g, 8 mmol) and heat at 100° C. for 2 days. Cool to room temperature, dilute with brine, and then extract with ethyl acetate (3×150 mL). Dry the ethyl acetate extracts with sodium chloride/magnesium sulfate, filter, then concentrate on a rotary evaporator to yield 3 g of the crude product. The crude product is purified by flash column chromatography on silica gel eluting with 0.5% conc. ammonium hydroxide/5% ethanol in chloroform to yield 5-(5-carbamoyl-pyridin-2-yloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (2.1 g, 5.7 mmol): 1H NMR (DMSO-d6, 300.00 MHz): 8.54 (s, 1H); 8.30-8.23 (m, 1H); 8.02-7.93 (m, 1H); 7.48 (s, 1H); 7.23 (d, 1H); 7.09-6.95 (m, 1H); 4.54 (s, 2H); 3.48-3.36 (m, 4H); 2.87-2.71 (m, 2H); 1.39 (s, 9H).

reactant | 3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 8 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1 | C14H19NO2
reactant | cesium carbonate | 16 mmol, 5.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
reactant | 6-chloronicotinamide | 8 mmol, 1.2 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
solvent | brine | [Cl-].[Na+].O
product | 5-(5-carbamoyl-pyridin-2-yloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 5.7 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)OC1=NC=C(C=C1)C(N)=O | C20H23N3O4
